US04012367
to a solution of 44.64 parts of benzyloxycarbonyl-D-alanine in 276 parts of tetrahydrofuran is added 2.02 parts of N-methylmorpholine. The resulting solution is cooled to about -30° C. and 25.4 parts of isobutyl chloroformate is added with stirring. After stirring for about 5 minutes, 13.0 parts of n-propylamine is added and the mixture stirred for a further 10 minutes. The mixture is cooled overnight and then concentrated under reduced pressure to a syrup. This residue is dissolved in methylene chloride and washed successively with 2 M potassium carbonate, water, twice with 1 M hydrochloric acid and finally, twice with water. After drying over anhydrous magnesium sulfate the solution is concentrated under reduced pressure. The residue is diluted with 180 parts of ethyl ether and cooled to 5° C. The resulting crystals are filtered, washed with ether and dried to give benzyloxycarbonyl-D-alanine n-propylamide, melting at about 116.5°-120° C.

reactant | benzyloxycarbonyl-D-alanine | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | n-propylamine | C(CC)N | C3H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyloxycarbonyl-D-alanine n-propylamide | C(CC)NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C14H20N2O3
